US07550459B2
4-(3-Chloropropyl)-8-ethyl-4H-benzo[1,4]oxazin-3-one
8-Ethyl-4H-benzo[1,4]oxazin-3-one (0.35 g, 2.0 mmol), Cs2CO3 (0.96 g, 2.9 mmol), and 1-chloro-3-iodopropane (0.45 g, 2.2 mmol) were mixed according to GP2. Purified by column chromatography (SiO2; heptanes/EtOAc, gradient 0 to 50% EtOAc) to give the title compound (0.38 g, 74%). Rf=0.64 (heptanes/EtOAc 1:1); 1H NMR (CDCl3) d 7.01-6.89 (m, 2H), 4.58 (s, 2H), 4.12-4.07 (m, 2H), 3.62 (t, J=6.4 Hz, 2H), 2.65 (q, J=7.6 Hz, 2H), 2.21-2.12 (m, 2H), 1.20 (t, J=7.6 Hz, 3H); 13C NMR (CDCl3) d 1.64.9, 143.3, 133.4, 128.4, 124.3, 122.6, 112.6, 67.2, 42.5, 39.2, 30.3, 23.0, 14.5.

reactant | 8-Ethyl-4H-benzo[1,4]oxazin-3-one | 2.0 mmol, 0.35 g | C(C)C1=CC=CC=2NC(COC21)=O | C10H11NO2
reactant | Cs2CO3 | 2.9 mmol, 0.96 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-chloro-3-iodopropane | 2.2 mmol, 0.45 g | ClCCCI | C3H6ClI
product | 4-(3-Chloropropyl)-8-ethyl-4H-benzo[1,4]oxazin-3-one | 0.38 g, 74% | ClCCCN1C(COC2=C1C=CC=C2CC)=O | C13H16ClNO2
